US08980934B2
A. (RS)—N—((S)-Cyclopentyl(pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide
A solution of 2-bromopyridine (11.8 mL, 19.5 g, 123.5 mmolin dry THF (50 mL) was added carefully to i-PrMgCl.LiCl (1.3 M in THF, 95.0 mL, 123.5 mmol). The resulting solution was stirred at rt for 3 h after which it was added dropwise, over 45 min, to a −48° C. solution of (R,E)-N-(cyclopentylmethylene)-2-methylpropane-2-sulfinamide (19.1 g, 95.0 mmol) in dry CH2Cl2 (250 mL). The resulting mixture was stirred at −48° C. for 1 h before being allowed to slowly warm up to rt over 16 h. The reaction was quenched by addition of saturated aq NH4Cl (200 mL). H2O (200 mL) was added and the mixture was extracted with CH2Cl2 (3×100 mL). The combined organic extracts were washed with brine (150 mL). The organic layer was dried (Na2SO4) and was concentrated under reduced pressure yielding the crude product (28.6 g, 5:1 d.r. (RS,S)—(RS,R)) as a clear red oil. The crude product was purified by repeated flash chromatography on silica gel using 1:19 MeOH-EtOAc as eluent in combination with trituration of the obtained solids with cyclohexane which eventually gave the pure product (8.80 g, 33%) as a white solid; 1H NMR (400 MHz, CDCl3) δ ppm 8.56 (d, J=4.5 Hz, 1H), 7.63 (dt, J=1.0, 7.5 Hz, 1H), 7.22 (d, J=7.5 Hz, 1H), 7.16 (dd, J=4.5, 7.5 Hz, 1H), 4.26 (dd, J=5.0, 8.5 Hz, 1H), 3.95 (d, J=5.0 Hz, 1H), 2.44-2.31 (m, 1H), 1.94-1.83 (m, 1H), 1.68-1.44 (m, 5H), 1.44-1.32 (m, 1H), 1.30-1.17 (m, 1H), 1.13 (s, 9H).

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | LiCl | 123.5 mmol, 1.3 M, 95.0 mL | [Li+].[Cl-]
reactant | (R,E)-N-(cyclopentylmethylene)-2-methylpropane-2-sulfinamide | 95.0 mmol, 19.1 g | C1(CCCC1)\C=N\[S@](=O)C(C)(C)C | C10H19NOS
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (RS)—N—((S)-Cyclopentyl(pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide | 8.80 g, 33% | C1(CCCC1)[C@H](NS(=O)C(C)(C)C)C1=NC=CC=C1 | C15H24N2OS
